US09102614B2
Step 1: Preparation of ethyl 2-(1-(4-chlorophenyl)-3-methyl-6-(triisopropyl-silyloxy)naphthalen-2-yl)-2-oxoacetate:
To a solution of (6-bromo-5-(4-chlorophenyl)-7-methylnaphthalen-2-yloxy)triisopropylsilane (2.5 g, 4.9 mmol) in THF (50 mL) cooled to −78° C. was added n-BuLi (1.6 M in hexanes, 4.6 mL, 7.4 mmol) dropwise. The resulting solution was allowed to stir at −78° C. for 30 min before addition of diethyl oxalate (1.7 mL, 12.4 mmol). After 45 min at −78° C., the cold bath was removed and the reaction allowed to warm to room temperature over 1 h. 5% citric acid (50 mL) solution was added and the layers separated. Following extraction with EtOAc, the combined organics were washed with brine, dried over anhydrous MgSO4 and concentrated in vacuo. The resulting residue was purified by Yamazen column chromatography (0-10% EtOAc/Hex) to afford 2.10 g (81%) of the title compound as a colorless syrup. LCMS-ESI+ (m/z): [M+H]+ calcd for C30H38ClO4Si: 526.16; found: 526.89.

reactant | (6-bromo-5-(4-chlorophenyl)-7-methylnaphthalen-2-yloxy)triisopropylsilane | 4.9 mmol, 2.5 g | BrC=1C(=C2C=CC(=CC2=CC1C)O[Si](C(C)C)(C(C)C)C(C)C)C1=CC=C(C=C1)Cl | C26H32BrClOSi
reactant | n-BuLi | 7.4 mmol, 1.6 M, 4.6 mL | [Li]CCCC
reactant | diethyl oxalate | 12.4 mmol, 1.7 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | ethyl 2-(1-(4-chlorophenyl)-3-methyl-6-(triisopropyl-silyloxy)naphthalen-2-yl)-2-oxoacetate | 2.10 g, 81% | ClC1=CC=C(C=C1)C1=C(C(=CC2=CC(=CC=C12)O[Si](C(C)C)(C(C)C)C(C)C)C)C(C(=O)OCC)=O | C30H37ClO4Si
